US05159103
A solution of 1 g of (S)-2-[N-(tert-butoxycarbonyl)amino]-7-carbethoxymethoxytetraline, EXAMPLE 5, in 15 ml of methylene chloride is cooled to 0° C. A solution of 2.2 ml of trifluoroacetic acid in 15 ml of methylene chloride is added thereto and the reacting mixture is left under stirring 30 minutes at a temperature of 0°-5° C. and afterwards 4 hours at room temperature. By operating as described in EXAMPLE 4, the (S)-2-amino-7-carbethoxymethoxytetraline hydrochloride is obtained; /alpha/=-52° (methanol, c=1%).

reactant | (S)-2-[N-(tert-butoxycarbonyl)amino]-7-carbethoxymethoxytetraline | 1 g | C(C)(C)(C)OC(=O)N[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)OCC | C19H27NO5
reactant | trifluoroacetic acid | 2.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-7-carbethoxymethoxytetraline hydrochloride | Cl.N[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)OCC | InChI=1S/C14H19NO3.ClH/c1-2-17-14(16)9-18-13-6-4-10-3-5-12(15)7-11(10)8-13;/h4,6,8,12H,2-3,5,7,9,15H2,1H3;1H/t12-;/m0./s1
